Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypoxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year ___ speaking man w/ hx of DM, ESRD on HD who 
presents with intermittent hypoxia
.
Patient was recently admitted to ___ for hypoxia and was 
initially thought to have pneumonia, covered broadly for HCAP 
(had prior ICU admission requiring biPAP). He was later thought 
to have volume overload/bronchitis, abx were narrowed to 
levofloxacin, and he completed 7-day course today. He was sent 
to the ED form rehab
this morning for CTA to rule out PE due to his hypoxia. 
.
Patient presents today with his daughter, who reports that 
patient has had oxygen desaturation into the ___ at rehab 
intermittently since starting HD. Hypoxic events are not 
precipitated by identifiable causes, no relation to exertion, 
eating, position. Pt appears short of breath during these times 
and responds to oxygen (2L) with saturations climbing to mid 
___. Patient also has had productive cough for past week, not 
worse with lying down or post-prandial, but patient is unclear 
of sputum color. Reports chills upon transport but none prior. 
Denies fevers, chest pain, pain on inspiration, orthopnea, PND, 
calf pain, asymmetric lower extremity edema, sick contacts. At 
baseline, patient has mild abdominal distention and lower 
extremity edema in between HD sessions that resolves after. He 
uses a cane for walking and has mild dizziness when going from 
sitting to standing, worse after HD. Pt also reports occasional 
tightness in the abdomen, unrelated to eating.       
.
In the ED, initial vital signs were T 97.9 HR 74 BP ___ RR 16 
O2 94% on 2L NC. He underwent EKG, CXR, and CTA, which was 
negative for PE. His labs were notable for troponin of 0.16 
(consistent with baseline, 0.12-0.14 in recent admission), WBC 
8.6, HCt 30.7 (baseline), glucose 214, Cr 6.0 (5.4-6.2 on 
previous admission), lactate 2.1. On transfer, vital signs were 
T 98.1 HR 67 BP 109/42 RR 22 O2 96% on 2L NC. 
.
Currently patient is comfortable on 2 L and remains so on RA. He 
has no complaints 
.  
ROS: Denies fever, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, chest pain, abdominal pain, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  

 
Past Medical History:
DM (diabetes mellitus), type 2 with nephropathy & retinopathy
Hyperkalemia  
Hypertension goal BP (blood pressure) < 130/80  
OBESITY UNSPEC  
HYPERCHOLESTEROLEMIA  
CHRONIC KIDNEY DISEASE, STAGE V (SEVERE)  
ESOPHAGEAL REFLUX  
TOBACCO DEPENDENCE  
PROSTATIC HYPERTROPHY, BENIGN 
 
Social History:
___
Family History:
Brother  ___ Onset; heart disorder 

 
Physical Exam:
VS - Temp 97.9, BP 117/80 , HR 70 , R 18, O2-sat 97% on 2L, 
94-95% on RA, FSBG 98  
GENERAL - well-appearing man, comfortable, NAD 
HEENT - NC/AT, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, JVP 8cm, no carotid bruits  
LUNGS - crackles at bilateral bases R>L, no wheezes, good air 
movement, resp unlabored, no accessory muscle use  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, mildly distended abdomen, soft, no masses or 
HSM, no rebound/guarding  
EXTREMITIES - WWP, no edema, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical or supraclavicular LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ proximal muscles throughout, sensation grossly intact 
throughout,  
.  

 
Pertinent Results:
___ 11:00AM BLOOD WBC-8.6 RBC-3.15* Hgb-10.6* Hct-30.7* 
MCV-98 MCH-33.7* MCHC-34.5 RDW-12.9 Plt ___
___ 04:51AM BLOOD WBC-8.2 RBC-3.00* Hgb-10.0* Hct-28.1* 
MCV-94 MCH-33.5* MCHC-35.7* RDW-13.1 Plt ___
___ 11:00AM BLOOD Neuts-70.3* Lymphs-16.5* Monos-8.6 
Eos-3.3 Baso-1.2
___ 11:00AM BLOOD Glucose-214* UreaN-49* Creat-6.0* Na-138 
K-4.6 Cl-95* HCO3-29 AnGap-19
___ 04:51AM BLOOD Glucose-125* UreaN-62* Creat-7.4*# Na-134 
K-4.5 Cl-92* HCO3-29 AnGap-18
___ 11:00AM BLOOD cTropnT-0.16*
___ 08:54AM BLOOD Calcium-8.9 Phos-6.3*# Mg-2.5
___ 11:35AM BLOOD Lactate-2.1*
.
CXR ___: FINDINGS: Frontal and lateral views of the chest 
were obtained. Large bore 
right-sided central venous catheter terminates at the cavoatrial 

junction/proximal right atrium. No pleural effusion or 
pneumothorax is seen.  
The cardiac silhouette remains mildly enlarged. The mediastinal 
and hilar 
contours are stable. No definite focal consolidation is seen. 
.
CTA ___:
 
Preliminary ReportThe thyroid gland is unremarkable. There is no 
axillary or mediastinal 
Preliminary Reportlymphadenopathy by CT size criteria. The heart 
and great vessels are 
Preliminary Reportunremarkable. There are minimal left anterior 
descending coronary artery 
Preliminary Reportcalcifications. Also noted are mitral annular 
calcifications. There are mild 
Preliminary Reportcalcifications within the aortic arch. A 
right-sided dialysis catheter 
Preliminary Reportterminates with its tip deep in the right 
atrium. No pericardial effusions 
Preliminary Reportare present. 
  
Preliminary ReportThe pulmonary arteries are patent down to the 
subsegmental level. 
  
Preliminary ReportThe lungs show diffuse bibasilar atelectasis, 
but no nodules, effusions, or 
Preliminary Reportconsolidations are present. The descending 
thoracic aorta shows evidence of 
Preliminary Reportulcerated soft plaque (4:117). No effusions 
are present. The aorta is mildly 
Preliminary Reportectatic measuring upto 45 mm at the level of 
the main pulmonary artery. 
  
Preliminary ReportAlthough this examination was not intended for 
subdiaphragmatic evaluation, 
Preliminary Reportthe partially imaged abdomen shows 
cholecystectomy clips, but is otherwise 
Preliminary Reportunremarkable. 
  
Preliminary ReportOSSEOUS STRUCTURES: 
  
Preliminary ReportThe visible osseous structures show no 
suspicious lytic or blastic lesions or 
Preliminary Reportfractures. There is mild anterior osteophyte 
formation of the lower thoracic 
Preliminary Reportspine. 
  
Preliminary Report
IMPRESSION: 
Preliminary Report1. No pulmonary embolism or pneumonia. 
Preliminary Report2. Right-sided dialysis catheter terminates 
with its tip deep within the 
Preliminary Reportright atrium 

 
Brief Hospital Course:
#HYPOXIA: Pt reportedly intermittently hypoxic to ___ and ___. 
There was concern for PE at rehab and patient sent for CTA. CTA 
negative so PE unlikely. No obvious pneumonia or fluid overload 
on CXR or CT.  Most likely etiology is a poor O2 saturation 
recording on the monitor secondary to his finger clubbing and 
nail fungus.  When the pulse oximeter was adjusted his sats 
improved.  An additional portable pulse oximeter was used and 
showed stable oxygen saturations on room air without desat.  
.
#CKD: Pt currently undergoes HD on T, Th, and S. Cr 6.0 on 
admission, stable from previous admission.  He received dialysis 
on ___ which was uncomplicated.  His amlodipine was held to 
allow more blood pressure room to remove fluid
.
# DM:  Continued lantus and sliding scale
.
#HTN: Stable.  Held amlodpine on discharge, but maintained home 
lasix
.
#ANEMIA: Stable from previous admissions. Received ferrous 
gluconate during HD
.
Transitional Issues:
-Pt is DNR/DNI
 
Medications on Admission:
2. Duonebs q4hr prn
3. Miralax daily
4. Trazadone 25mg qHS prn insomnia
5. B complex 1 tab daily
6. Folic acid 1 tab daily
7. Vitamin C 250mg daily
8. Biscodyl PR prn
9. Fleet enema prn
10. Acetaminophen 650mg q4hr prn pain
11. Amlodipine 5mg daily (stopped on ___
12. Calcitriol 0.25mcg every other day
13. Vitamin ___ ___ weekly on ___
14. Milk of magnesia prn
15. Lasix 40mg PO daily
16. Percocet ___- 1 tab PO q4hr prn pain
17. Senna qHS
18. Colace liquid PO qHS
19. Remeron 15mg PO qHS
20. Amlodipine 2.5mg PO daily
21. PhosLo 667mg- 2 tab PO TID with meals
22. Humalog insulin sliding scale
23. Lantus 40U daily 
.  

 
Discharge Medications:
1. DuoNeb 0.5 mg-3 mg(2.5 mg base)/3 mL Solution for 
Nebulization Sig: One (1) neb Inhalation every four (4) hours as 
needed for shortness of breath or wheezing.  
2. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily) as needed for 
constipation.  
3. trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.  
4. B complex vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
5. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Vitamin C 250 mg Tablet Sig: One (1) Tablet PO once a day.  
7. bisacodyl 5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for constipation.  
8. Fleet Enema ___ gram/118 mL Enema Sig: One (1) enema Rectal 
once a day as needed for constipation.  
9. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO every four 
(4) hours as needed for pain.  
10. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO EVERY 
OTHER DAY (Every Other Day).  
11. ergocalciferol (vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO once a week: On ___.  
12. Milk of Magnesia 400 mg/5 mL Suspension Sig: Five (5) ml PO 
once a day as needed for constipation.  
13. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Percocet ___ mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain.  
15. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

16. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO at 
bedtime.  
17. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
18. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
19. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
20. Lantus 100 unit/mL Solution Sig: Forty (40) units 
Subcutaneous once a day: at breakfast.  
21. insulin lispro 100 unit/mL Solution Sig: dose per sliding 
scale units Subcutaneous four times a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
HYPOXIA

Secondary Diagnosis:
END STAGE RENAL DISEASE
DIABETES MELLITUS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ from ___ to ___ for 
low oxygen levels and concern for a possible blood clot in your 
lungs. A scan was done of your chest, which did not show a blood 
clot in your lungs, and your oxygen levels were monitored and 
remained normal. You are now doing well. Thank for allowing us 
to participate in your care. 

Medication changes:
Please STOP amlodipine 2.5 mg

Please CONTINUE all of your other home medications   
 
Followup Instructions:
___